US07678800B2
1.58 g 4-(2-Triisopropylsilanylsulfanyl-phenyl)-piperidine-1-carboxylic acid tert-butyl ester (3.51 mmol) in 10 mL THF was added to 1.21 g tetrabutylammonium fluoride dihydrate (3.85 mmol) in 5 mL THF at 0° C. The reaction mixture was stirred 1 hour at 0° C., filtered through a plug of silica (eluted with EtOAc/heptane 1:1) and concentrated in vacuo. The residue was redissolved in 14 mL THF. 2 mL of this solution (≈0.5 mmol) was added to 67 mg N-chloro succinimide (0.50 mmol) in 2 mL 1,2-dichloro-ethane at 0° C. The reaction mixture was stirred 30 minutes at room temperature. The resulting solution was added to 90 mg indole (0.75 mmol) in 2 mL THF at 0° C. The reaction mixture was stirred 2 hour at 0° C., poured into 20 mL saturated NaHCO3 and extracted with ethyl acetate (2×50 mL). The combined organic phases were washed with brine (20 mL), dried with MgSO4 and concentrated in vacuo. The residue was purified by flash chromatography (silica gel; ethyl acetate/heptane) to give 89 mg 4-[2-(1H-indol-3-ylsulfanyl)-phenyl]-piperidine-1-carboxylic acid tert-butyl ester (0.22 mmol, ≈44%). 2 mL diethyl ether saturated with HCl was added to 4-[2-(1H-indol-3-ylsulfanyl)-phenyl]-piperidine-1-carboxylic acid tert-butyl ester and stirred over night at room temperature. The reaction mixture was neutralized with saturated NaHCO3 and extracted with ethyl acetate (2×50 mL). The combined organic phases were washed with brine (20 mL), dried with MgSO4 and concentrated in vacuo. 3-(2-piperidin-4-yl-phenylsulfanyl)-1H-indole was isolated after preparative HPLC.

reactant | 4-(2-Triisopropylsilanylsulfanyl-phenyl)-piperidine-1-carboxylic acid tert-butyl ester | 3.51 mmol, 1.58 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=C(C=CC=C1)S[Si](C(C)C)(C(C)C)C(C)C | C25H43NO2SSi
reactant | tetrabutylammonium fluoride dihydrate | 3.85 mmol, 1.21 g | O.O.[F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | N-chloro succinimide | 0.50 mmol, 67 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | indole | 0.75 mmol, 90 mg | N1C=CC2=CC=CC=C12 | C8H7N
reactant | NaHCO3 | 20 mL | C(=O)(O)[O-].[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | 1,2-dichloro-ethane | 2 mL | ClCCCl | C2H4Cl2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 4-[2-(1H-indol-3-ylsulfanyl)-phenyl]-piperidine-1-carboxylic acid tert-butyl ester | 0.22 mmol, 89 mg, ≈44% | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=C(C=CC=C1)SC1=CNC2=CC=CC=C12 | C24H28N2O2S
